US05098929
5-Cyclohexyl-2,2-dimethyl-5-hydroxymethyl-1,3-dioxane (2.2 g.) was added to a stirred suspension of pyridinium chlorochromate (6.1 g.) and anhydrous sodium acetate (3.0 g.) in dry dichloromethane (50 ml.), at 0°, under a current of nitrogen. The mixture was stirred at room temperature for six hours. The mixture was diluted with dry ether (100 ml) and the organic solution was decanted off. The oily residue was treated with ether and the combined extracts were evaporated in vacuo. 5-Cyclohexyl-2,2-dimethyl-5-formyl-1,3-dioxane was obtained as a pale yellow oil (1.8 g.) and was used without further purification.

reactant | 5-Cyclohexyl-2,2-dimethyl-5-hydroxymethyl-1,3-dioxane | 2.2 g | C1(CCCCC1)C1(COC(OC1)(C)C)CO | C13H24O3
reactant | pyridinium chlorochromate | 6.1 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | sodium acetate | 3.0 g | C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 5-Cyclohexyl-2,2-dimethyl-5-formyl-1,3-dioxane | C1(CCCCC1)C1(COC(OC1)(C)C)C=O | C13H22O3
